US08492425B2
(5-methoxynaphthalen-2-yl)hydrazine chlorhidrate
To a suspension of 2-amino-5-methoxynaphthalene (3.5 g, 20 mmol) in water (65 ml) and HCl conc. (25 ml) cooled down to −6° C., sodium nitrite (1.55 g, 22 mmol) in water (15 ml) was added dropwise. It was kept at stirring, approximately at the same temperature, during 45 minutes and subsequently a solution of SnCl2 (9.3 g, 40 mmol) in HCl conc. (10 ml) was added. Once the addition was performed, it was allowed that the temperature would slowly increase until achieving room temperature, and it was filtered. The filtered solid was washed with water and ethylic ether and, subsequently, it was suspended in ethylic ether, with stirring, during a few minutes. It was filtered and dried resulting in 3.5 g of a crude brown solid, which was used directly in the following synthesis step.

reactant | 2-amino-5-methoxynaphthalene | 20 mmol, 3.5 g | NC1=CC2=CC=CC(=C2C=C1)OC | C11H11NO
reactant | sodium nitrite | 22 mmol, 1.55 g | N(=O)[O-].[Na+]
reactant | SnCl2 | 40 mmol, 9.3 g | Cl[Sn]Cl
solvent | water | 65 ml | O | H2O
solvent | HCl | 25 ml | Cl | ClH
solvent | water | 15 ml | O | H2O
solvent | HCl | 10 ml | Cl | ClH
product | (5-methoxynaphthalen-2-yl)hydrazine | 3.5 g | COC1=C2C=CC(=CC2=CC=C1)NN | C11H12N2O
